US07265120B2
A mixture of N′-[6-chloro-3-cyano-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinyl]-N,N-dimethylimidoformamide (200 mg), 3-fluorophenylboronic acid (243 mg), tetrakistriphenylphosphine palladium (20.1 mg) and Na2CO3(246 mg) indioxane (10 ml) and water (2 ml) was stirred at 90° C. for 15 hours. Water and EtOAc were added to the reaction mixture. The organic layer was separated, and dried over MgSO4. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography eluted with a mixture of n-hexane and EtOAc. The fractions were concentrated in vacuo to obtain N′-[3-cyano-6-(3-fluorophenyl)-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinyl]-N,N-dimethylimidoformamide (100 mg) as white powder.

reactant | N′-[6-chloro-3-cyano-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinyl]-N,N-dimethylimidoformamide | 200 mg | ClC1=C(N=C(C(=N1)N=CN(C)C)C#N)C1=NN(C(C=C1)=O)C(C)C | C15H16ClN7O
reactant | 3-fluorophenylboronic acid | 243 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 246 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 2 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N′-[3-cyano-6-(3-fluorophenyl)-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinyl]-N,N-dimethylimidoformamide | 100 mg | C(#N)C=1C(=NC(=C(N1)C1=NN(C(C=C1)=O)C(C)C)C1=CC(=CC=C1)F)N=CN(C)C | C21H20FN7O
